US07112553B1
tert-Butyl nitrite (8.34 g, 0.081 mol) was added dropwise, over 30 minutes, to a suspension of 4-bromo-2-methylacetanilide (12.3 g) in toluene (300 ml) at 65° C. and the mixture was stirred at 65° C. for 45 minutes and then at 90° C. for 3 hours. The mixture was cooled to room temperature and the solvent was removed in vacuo. The residue was purified by flash column chromatography on silica gel eluting with 2:1 diethyl ether:hexane to give 5-bromoindazole (4.12 g), as a sand-coloured solid.

reactant | tert-Butyl nitrite | 0.081 mol, 8.34 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 4-bromo-2-methylacetanilide | 12.3 g | CC1=C(C=CC(=C1)Br)NC(=O)C | C9H10BrNO
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5-bromoindazole | 4.12 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
